US08193199B2
To a stirred solution of 2-((S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)-quinolin-3-yl)ethyl)isoindoline-1,3-dione (30 mg, 69 μmol) in THF (1.0 mL) and ethanol (3.0 mL) was added hydrazine monohydrate (69 μl, 1380 μmol). The reaction was heated to 90° C. for 40 minutes and then cooled to room temperature and evaporated in vacuo. The resulting residue was diluted with ethyl acetate (60 mL) and water (40 mL) and the aqueous layer was extracted with ethyl acetate (30 mL). The combined organic layers were washed with brine and then dried (MgSO4), filtered and evaporated in vacuo to give (1S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)quinolin-3-yl)ethanamine. 1H NMR (500 MHz, choroform-d) δ ppm 8.62 (1H, s), 7.79-7.84 (2H, m), 7.49-7.52 (1H, m), 5.61 (1H, d, J=6.4 Hz), 2.86 (3H, s), 1.57 (3H, d, J=6.6 Hz). Mass Spectrum (ESI) m/e=305.0 (M+1).

reactant | 2-((S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)-quinolin-3-yl)ethyl)isoindoline-1,3-dione | 69 μmol, 30 mg | ClC=1C=CC=C2C=C(C(=NC12)C=1SC(=NN1)C)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C22H15ClN4O2S
reactant | hydrazine monohydrate | 1380 μmol, 69 μl | O.NN
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | (1S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)quinolin-3-yl)ethanamine | ClC=1C=CC=C2C=C(C(=NC12)C=1SC(=NN1)C)[C@H](C)N | C14H13ClN4S
